US03956310
5.55 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 2.97 parts of phenyl isocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 100 parts of dry benzene were stirred and heated at reflux for 36 hours. After removal of the benzene by distillation under reduced pressure the residue was crystallised from petroleum ether of boiling range 60-80°C to give 4.50 parts of 14-phenylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one having a melting point of 129° to 130°C and the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-phenylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1(=CC=CC=C1)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2 | C20H27N3O2
